US07723391B2
To a solution of trans-2,2-dimethyl-3-phenyl-cyclopropylamine (1.04 g, 6.5 mmol) in DCM was added triethylamine (1.435 g, 14.3 mmol), followed by 5-chloro-2-methoxybenzoic acid (1.446 g, 7.44 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (2.696 g, 8.45 mmol). The resulting mixture was stirred at room temperature overnight, then poured into water and extracted with DCM. The combined organic extracts were dried over Na2SO4, filtered, and evaporated under reduced pressure. The crude residue was purified by flash chromatography (0% to 15% of EtOAc in hexane) to give 1.71 g (86% yield) of trans-5-chloro-N-(2,2-dimethyl-3-phenyl-cyclopropyl)-2-methoxy-benzamide, MS=330 [M+H]+.

reactant | trans-2,2-dimethyl-3-phenyl-cyclopropylamine | 6.5 mmol, 1.04 g | CC1([C@H]([C@@H]1C1=CC=CC=C1)N)C | C11H15N
reactant | triethylamine | 14.3 mmol, 1.435 g | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-2-methoxybenzoic acid | 7.44 mmol, 1.446 g | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 8.45 mmol, 2.696 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | trans-5-chloro-N-(2,2-dimethyl-3-phenyl-cyclopropyl)-2-methoxy-benzamide | 1.71 g, 86% yield | ClC=1C=CC(=C(C(=O)N[C@@H]2C([C@H]2C2=CC=CC=C2)(C)C)C1)OC | C19H20ClNO2
